data/rdb19/train.csv
rxn,smiles,ea
4520,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][H:25])[O:6][H:12])([H:7])([H:8])[H:9],33.75398780463729
4021,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[O:24][C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])[O:25][H:31])([H:11])([H:12])[H:13],24.97716501937248
4346,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:14])[H:15])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20],18.530701192561537
3070,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35],33.10081297229044
724,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[C:20]([C:19]([H:23])([H:24])[H:25])([H:21])[H:22],65.9724579375179
3354,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],16.357565567130223
4130,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:22]1([C:21](=[C:20]([H:28])[H:29])[H:30])[C:23]([H:31])[C:24]([H:32])=[C:25]([H:33])[C:26]([H:34])=[C:27]1[H:35],43.44861938955728
5404,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])([H:10])[C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29],13.049369932035916
5543,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17].[C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10],57.53958824055735
1348,[C:10]([C:11]([C:12]([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:21])[H:7])[H:6],30.00726434600074
3402,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:18][C:19](=[C:20]([H:25])[H:26])[H:24],69.54398472589673
